US08957069B2
4-[4-(2,4,6,7-Tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazin-1-yl]benzamide
The mixture of 4-[4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazin-1-yl]benzonitrile (70 mg, 0.194 mmol) synthesized in Reference example 29 and potassium hydroxide (33 mg, 0.582 mmol) was stirred in tert-butanol (2.0 mL) at 80° C. for 20 hours. After adding water, solids obtained were filtered and washed with ethanol to obtain the title compound 35 mg (yield 48%). Melting point was 240 to 245° C. (ethanol).

reactant | 4-[4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazin-1-yl]benzonitrile | 0.194 mmol, 70 mg | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C#N)C=C2)C | C23H27N3O
reactant | potassium hydroxide | 0.582 mmol, 33 mg | [OH-].[K+]
reactant | water | O | H2O
solvent | tert-butanol | 2.0 mL | C(C)(C)(C)O | C4H10O
product | 4-[4-(2,4,6,7-Tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazin-1-yl]benzamide | 35 mg, yield 48% | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C(=O)N)C=C2)C | C23H29N3O2
